US07211668B2
N-{2-[5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (500 MHz; DMSO-d6) δ 8.27 (s, 1H), 7.80 (d, 1H), 7.75 (d, 1H), 4.03 (q, 2H), 3.35 (s, 2H), 3.21 (t, 2H), 2.71 (t, 2H), 1.15 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonyl chloride | ClC1=C(C=C(C=C1)Cl)C1=NN=C(S1)S(=O)(=O)Cl | C8H3Cl3N2O2S2
product | N-{2-[5-(2,5-Dichlorophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=CC(=C1)Cl)Cl)=O | C14H16Cl2N4O4S2
